US05374641
In a mixed solvent of 2 ml of ethanol and 2 ml of tetrahydrofuran was dissolved 21.8 mg of ethyl 4-[3-(4-chlorobenzenesulfonamido)-3-(3-pyridyl)propyl]phenoxyacetate, followed by addition of 0.25 ml of aqueous 2N sodium hydroxide solution, and stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, which was then neutralized with 2N hydrogen chloride. The crystalline deposited was filtered and washed in water followed by drying, to obtain 4.0 mg of 4-[3-(4-chlorobenzenesulfonamido)-3-(3-pyridyl)propyl]phenoxyacetic acid. The spectrometric data thereof supports the structure of [39] as follows.

reactant | ethyl 4-[3-(4-chlorobenzenesulfonamido)-3-(3-pyridyl)propyl]phenoxyacetate | 21.8 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(CCC1=CC=C(OCC(=O)OCC)C=C1)C=1C=NC=CC1 | C24H25ClN2O5S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-[3-(4-chlorobenzenesulfonamido)-3-(3-pyridyl)propyl]phenoxyacetic acid | 4.0 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(CCC1=CC=C(OCC(=O)O)C=C1)C=1C=NC=CC1 | C22H21ClN2O5S
